US05041679
19.72 Grams of methyl acetoacetate were dissolved in 30 ml of water, and 25.33 g of a 30% aqueous sodium hydroxide solution were added thereto by drops while cooling the mixture to 25° C. or less. After having been stirred at 30°-35° C. for 3 hours, the mixture was adjusted to pH 7.0 with a concentrated aqueous hydrochloric acid solution. Thereafter, 0.98 g of sodium acetate and then an additional concentrated aqueous hydrochloric acid solution were added to the mixture so that the mixture had a pH of 6.9. And 40 ml of methanol and then 23.44 g of 3-(4-trifluoromethylphenylthio)propanal were added thereto. The resulting mixture was stirred at 45°-50° C. for 10 hours. The mixture was concentrated under reduced pressure, and the residue obtained was extracted three times with ethyl acetate. The organic layers were combined, washed twice with a 5% aqueous acetic acid solution and then twice with a saturated aqueous sodium chloride solution and thereafter dried over anhydrous magnesium sulfate. Removing the solvent from the washed layer under reduced pressure gave 22.64 g of crude 4-hydroxy-6-(4-trifluoromethylphenylthio)-2-hexanone (purity: 89.6%, yield: 69.4%).

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | 0.98 g | C(C)(=O)[O-].[Na+]
reactant | 3-(4-trifluoromethylphenylthio)propanal | 23.44 g | FC(C1=CC=C(C=C1)SCCC=O)(F)F | C10H9F3OS
solvent | water | 30 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 4-hydroxy-6-(4-trifluoromethylphenylthio)-2-hexanone | 22.64 g, yield: 69.4% | OC(CC(C)=O)CCSC1=CC=C(C=C1)C(F)(F)F | C13H15F3O2S
